US04136194
An alternative technique for attaining the desired end involves reacting indomethacin with an equimolecular quantity of thionylchloride, desirably in a halogenated hydrocarbon solvent such as dichloromethane, at room temperature in the presence of imidazole which serves as a basic agent to bind hydrogen chloride formed during the process. The product of this reaction, 1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indolylacetylchloride is then reacted, without isolation, with the equivalents of imidazole to yield indomethacin imidazole which is reacted with tropic acid, under the conditions set forth above, to yield the desired ester.

reactant | indomethacin | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | hydrogen chloride | Cl | ClH
reactant | 1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indolylacetylchloride | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)Cl)C)C=C1 | C19H15Cl2NO3
reactant | dichloromethane | ClCCl | CH2Cl2
product | indomethacin imidazole | CC1=CC=C(C=C1)N=C/C=C/N(C2=CC=C(C=C2)C)C(=O)C3=CC=CC=C3 | C24H22N2O
